* NMOS Id-Vd

.LIB "cornerMOShv.lib" mos_tt

.option reltol=1e-4

vg 1 0 1.2
vd 2 0 1.2

X1 2 1 0 0 sg13_hv_nmos w=0.8u l=0.45u ng=2 rfmode=0

.control

set wr_vecnames
set wr_singlescale
dc vd 0.0 1.2 0.02 vg 0.2 1.2 0.2
wrdata check/tb_moshv_nmos_id_vd_ng2.sp.out v(1) i(vd)
.endc

.end

